US08168639B2
The 3-(hydroxymethyl)-β-carboline was added to an excess (3 grams) of thionyl chloride and the mixture was refluxed for 1 hour. The excess thionyl chloride was then evaporated and the obtained residue was crystallized from hexane. 2.5 grams of 3-(chloromethyl)-β-carboline was obtained.

reactant | 3-(hydroxymethyl)-β-carboline | OCC=1N=CC=2NC3=CC=CC=C3C2C1 | C12H10N2O
reactant | thionyl chloride | 3 grams | S(=O)(Cl)Cl | Cl2OS
product | 3-(chloromethyl)-β-carboline | 2.5 grams | ClCC=1N=CC=2NC3=CC=CC=C3C2C1 | C12H9ClN2
